US08293916B2
Step 1: 2-Methyl-1-(4-trifluoromethyl-phenyl)-1H-imidazole
2-Methylimidazole (1.0 g, 12 mmol) was dissolved in 35 mL THF. 4-(Trifluoromethyl)phenylboronic acid (2.66 g, 14 mmol) and [Cu(OH)TMEDA]2Cl2 (1.13 g, 2 mmol) were added. Oxygen was bubbled through the reaction mixture for 30 minutes and stirring was continued at room temperature overnight. The reaction mixture was filtered through a dicalite speed plus pad, washed with 80 ml THF and evaporated. The crude product was purified by flash chromatography on silica gel with ethyl acetate. The desired compound was obtained as a light yellow solid (1.6 g, 58%), MS: m/e=227.2 (M+H+).

reactant | 2-Methylimidazole | 12 mmol, 1.0 g | CC=1NC=CN1 | C4H6N2
reactant | 4-(Trifluoromethyl)phenylboronic acid | 14 mmol, 2.66 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 2-Methyl-1-(4-trifluoromethyl-phenyl)-1H-imidazole | CC=1N(C=CN1)C1=CC=C(C=C1)C(F)(F)F | C11H9F3N2
